US08431563B2
To a 100-mL round-bottomed flask was added 2-methoxybenzyl alcohol (1.33 mL, 9.99 mmol, Aldrich, St. Louis, Mo.), triphenylphosphine (2.62 g, 9.99 mmol, Aldrich, St. Louis, Mo.) and carbon tetrabromide (0.969 mL, 9.99 mmol, Aldrich, St. Louis, Mo.) in dichloromethane (20 mL). The reaction mixture was stirred at room temperature for 4 h and then the solvent was removed in vacuo and the residue was purified by silica gel chromatography, eluting with 10% EtOAc in hexanes to give 1-(bromomethyl)-2-methoxybenzene (1.78 g) as a white solid.

reactant | 2-methoxybenzyl alcohol | 9.99 mmol, 1.33 mL | COC1=C(CO)C=CC=C1 | C8H10O2
reactant | triphenylphosphine | 9.99 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 9.99 mmol, 0.969 mL | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(bromomethyl)-2-methoxybenzene | 1.78 g | BrCC1=C(C=CC=C1)OC | C8H9BrO
